US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-{2-[1-(2-acetylamino-ethylcarbamoyl)-1-methyl-ethoxy]-5-chloro-phenyl}-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-[5-fluoro-2-methylphenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (35 mg, 0.06 mmol), EDCl (18 mg, 0.094 mmol), HOBt (14 mg, 0.094 mmol) and DIPEA (23 mg, 0.2 mmol) in THF (2 mL) was added N-(2-amino-ethyl)-acetamide (19 mg, 0.18 mmol). The mixture was stirred at room temperature overnight, purified by prep-HPLC to give the title compound as a white solid (11 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-[5-fluoro-2-methylphenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.06 mmol, 35 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CO)(C)C)=O)C1=C(C=CC(=C1)F)C)=O | C29H27Cl2FN2O4
reactant | EDCl | 0.094 mmol, 18 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.094 mmol, 14 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.2 mmol, 23 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2-amino-ethyl)-acetamide | 0.18 mmol, 19 mg | NCCNC(C)=O | C4H10N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Racemic (2′S,3S,4′R)-4′-{2-[1-(2-acetylamino-ethylcarbamoyl)-1-methyl-ethoxy]-5-chloro-phenyl}-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 11 mg | C(C)(=O)NCCNC(=O)C(C)(OC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O)C | C33H33Cl2FN4O5
